US05654318
8-Chloro-7-[3,7-diazabicyclo[3.3.0]oct-1(5)-ene -3-yl]-6-fluoro-1-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
A solution of 318 mg of 8-chloro-6,7-difluoro-1-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 544 mg of 3,7-diazabicyclo[3.3.0]oct-1(5) -ene dihydrobromide (JP-A-3-193779) and 2 ml of DBU in 20 ml of acetonitrile was heated under reflux for 15 hours. To the mixture was added 1N sodium hydroxide, and an insoluble material was removed by filtration. To the filtrate, was added hydrochloric acid till pH became 7.4, and the mixture was extracted by five 50 ml portions of chloroform. A combined organic layer was dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure. The residue was recrystallized from a mixture of ethanol and ammonia water to yield 43.7 mg of the titled compound.

reactant | 8-chloro-6,7-difluoro-1-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 318 mg | ClC=1C(=C(C=C2C(C(=CN(C12)[C@H]1[C@H](C1)F)C(=O)O)=O)F)F | C13H7ClF3NO3
reactant | 3,7-diazabicyclo[3.3.0]oct-1(5) -ene dihydrobromide | 544 mg | Br.Br.C1=2CNCC2CNC1
reactant | DBU | 2 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 8-Chloro-7-[3,7-diazabicyclo[3.3.0]oct-1(5)-ene -3-yl]-6-fluoro-1-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 43.7 mg | ClC=1C(=C(C=C2C(C(=CN(C12)[C@H]1[C@H](C1)F)C(=O)O)=O)F)N1CC=2CNCC2C1 | C19H16ClF2N3O3
